US08247576B2
Under nitrogen, a solution of 4-(4-bromo-phenyl)-4-(4-chloro-phenyl)-piperidine-1-carboxylic acid text-butyl ester* (888 mg, 1.97 mmol) in THF (5 mL) was cooled to −78° C. A solution of n-butyllithium (1.5 mL, 1.6M in hexanes) was added dropwise and the mixture maintained at this temperature for 25 minutes. Carbon dioxide gas (generated from dry ice and dried by passage through a column of calcium chloride pellets) was bubbled through the anion solution for 80 minutes then the mixture was allowed to warm to room temperature. The solvents were removed in vacuo then the residue was partitioned between 1N hydrochloric acid and diethyl ether. The organic phase, was separated, dried (MgSO4), filtered and concentrated. The combined aqueous phases were further extracted with ethyl acetate, this extract also being dried (MgSO4), filtered, combined with the ethereal extract and concentrated to afford 4-(4-carboxy-phenyl)-4-(4-chloro-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (889 mg); LCMS (PS-A2) Rt 3.52 min [M−tBu+H]+ 360.

reactant | 4-(4-bromo-phenyl)-4-(4-chloro-phenyl)-piperidine-1-carboxylic acid | BrC1=CC=C(C=C1)C1(CCN(CC1)C(=O)O)C1=CC=C(C=C1)Cl | C18H17BrClNO2
reactant | n-butyllithium | 1.6M, 1.5 mL | C(CCC)[Li]
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(4-carboxy-phenyl)-4-(4-chloro-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 889 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)C(=O)O | C23H26ClNO4
